US05212042
11.6 g of 1,4-di(n-hexyloxy)benzene was dissolved in a mixed solvent of 50 ml of acetic anhydride and 50 ml of n-hexane, and 4 ml of concentrated nitric acid having a specific gravity of 1.42 was dropwise added thereto at a room temperature of 20° C. over 3 minutes. The internal temperature rose to 46° C., and the reaction was completed to obtain 13.1 g of 2,5-di(n-hexyloxy)nitrobenzene (yield: 97%).

reactant | 1,4-di(n-hexyloxy)benzene | 11.6 g | C(CCCCC)OC1=CC=C(C=C1)OCCCCCC | C18H30O2
reactant | nitric acid | 4 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | n-hexane | 50 ml | CCCCCC | C6H14
product | 2,5-di(n-hexyloxy)nitrobenzene | 13.1 g, yield: 97% | C(CCCCC)OC1=C(C=C(C=C1)OCCCCCC)[N+](=O)[O-] | C18H29NO4
